US09301951B2
Intermediate: 187a (S)—N1-methyl-N1-(2-oxoethyl)-N3-(4-(piperidin-1-yl)-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)isophthalamide
To a solution of DMSO (2.07 mmol, 162 mg) in DCM (1.6 mL) at −78° C. was added a solution of oxalyl chloride (1.04 mmol, 131 mg) in DCM (0.2 mL). The mixture was stirred at −78° C. for 15 minutes. Then a solution of (S)—N1-(2-hydroxyethyl)-N1-methyl-N3-(4-(piperidin-1-yl)-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)isophthalamide Example 115 (0.69 mmol, 435 mg) in DCM (0.5 mL) was added. The mixture was stirred at −78° C. for 3 h. Triethylamine (0.5 mL) was added. The mixture was slowly warmed to room temperature. The mixture was diluted with aqueous 10% citric acid and extracted with DCM (3×). The combined organic layers was washed with water (1×), dried, concentrated to give a yellow solid which was used without purification.

reactant | DMSO | 2.07 mmol, 162 mg | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 1.04 mmol, 131 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (S)—N1-(2-hydroxyethyl)-N1-methyl-N3-(4-(piperidin-1-yl)-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)isophthalamide | OCCN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C2=NC=CC(=C2)C(N[C@H]2CCCC3=CC=CC=C23)=O)=CC=C1)=O)C | C38H41N5O4
reactant | Triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 1.6 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | (S)—N1-methyl-N1-(2-oxoethyl)-N3-(4-(piperidin-1-yl)-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)isophthalamide | CN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C2=NC=CC(=C2)C(N[C@H]2CCCC3=CC=CC=C23)=O)=CC=C1)=O)CC=O | C38H39N5O4
